US08664401B2
To a solution of ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate (2.08 g, 7.25 mmol) and 4-iodo-3-methylpyridin-2(1H)-one (1.42 g, 6.04 mmol) in tetrahydrofuran (60.4 mL) was added cesium carbonate (4.06 g, 12.1) at ambient temperature. The resulting mixture was stirred at 50° C. overnight. The mixture was allowed to cool to ambient temperature and filtered through a celite pad. The pad was washed with ethyl acetate and the filtrate was concentrated to a crude residue. The material was purified via filtration through a silica gel pad, eluting with heptanes/ethyl acetate. The desired fractions were isolated, the solvent removed via rotary evaporation affording ethyl 4-(4-iodo-3-methyl-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate as an oil. 1.97 g

reactant | ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate | 7.25 mmol, 2.08 g | BrCCC(C(=O)OCC)(S(=O)(=O)C)C | C8H15BrO4S
reactant | 4-iodo-3-methylpyridin-2(1H)-one | 6.04 mmol, 1.42 g | IC1=C(C(NC=C1)=O)C | C6H6INO
reactant | cesium carbonate | 4.06 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | tetrahydrofuran | 60.4 mL | O1CCCC1 | C4H8O
product | ethyl 4-(4-iodo-3-methyl-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate | IC1=C(C(N(C=C1)CCC(C(=O)OCC)(S(=O)(=O)C)C)=O)C | C14H20INO5S
